US06713474B2
Sodium hydride (168 mg, of a 60% dispersion in mineral oil) was added to a mixture of 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (770 mg, in dimethylformamide (30 ml). 3-Mesyloxy-8-methyl-8-azabicyclo[3.2.1 ]octane (900 mg, prepared as described in J.A.C.S. 1958, 80, 4679) in dimethylformamide (10 ml) was added under nitrogen with stirring. The mixture was warmed at 75° C. for 5 hours (and left standing at ambient temperature for 7 days). The solvent was removed under reduced pressure. Water was added to the residue and the mixture was extracted with ethyl acetate to give a residue which was purified by flash column chromatography on silica using ethyl acetate/methanol (50:50) as the mobile phase to remove starting material and then a mixture of ethyl acetate/methanol/triethylamine (5:5:1) as the mobile phase to elute the product. Appropriate fractions were combined and evaporated to give a solid which was triturated with ether and filtered to give 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-8-methyl-8-azabicyclo[3.2.1]octane, m.p. 238-250° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CNC=2N=CN=C(C21)N | C18H14N4O
reactant | 3-Mesyloxy-8-methyl-8-azabicyclo[3.2.1 ]octane | 900 mg | S(=O)(=O)(C)OC1CC2CCC(C1)N2C | C9H17NO3S
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-8-methyl-8-azabicyclo[3.2.1]octane | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CC1CCC(C2)N1C | C26H27N5O
